US06777417B2
3-(4-Oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid (12 g, 0.06 mol) was suspended in 80 ml of dichloromethane and carbonyldiimidazole (11.3 g, 0.07 mol) was added with stirring. After 30 minutes 58 ml of 2.0 M dimethylamine in tetrahydrofuran was added. After one hour the solvent was rotary evaporated. The residue was redissolved in dichloromethane, washed with 1 N hydrochloric acid and brine, dried over anhydrous magnesium sulfate and rotary evaporated. The solid residue was washed with ethyl acetate and dried under vacuum to give N, N-dimethyl-3-(4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionamide (8 g, 60% yield).

reactant | 3-(4-Oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 0.06 mol, 12 g | O=C1C=2C(=CNC2CCC1)CCC(=O)O | C11H13NO3
reactant | carbonyldiimidazole | 0.07 mol, 11.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | 2.0 M, 58 ml | CNC | C2H7N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N, N-dimethyl-3-(4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionamide | 8 g, 60% yield | CN(C(CCC1=CNC=2CCCC(C12)=O)=O)C | C13H18N2O2
